US07659353B2
To a 250 mL backed two-necked flask were added 2.36 g (10 mmol) of 1,4-dibromobenzene, 20 mg of Cul and 280 mg or dichlorobis(triphenylphosphine) palladium(ii) [Pd(Ph3P)2Cl2]. Then 38 mL of dried Et3N was injected in under nitrogen and magnetic stirring. Yellow turbidious dispersion was formed immediately. Following by adding 3.6 mL (2.45 g, 25 mmol) of trimethylsilylacetylene. The colour was changed from yellow to deep brown. Stirring was continued at room temperature for 24 hours. A mixture of grey precipitate was formed. The precipitate was separated and washed with Et3N slowly until its colour became white. The Et3N solutions were collected and the solvent was removed. A black solid with some crystal-like substance was obtained. The crude product was purified through a silica gel column using hexane and dichloromethane (1:1 v/v) as eluent. The thus obtained 1,4-bis(trimethylsilylacetyl)benzene (2.25 g, 8.3 mmol) was refluxed with 5.73 g (102 mmol) of KOH in 143 mL ethanol for 6 hours. The solution was poured to 880 mL of 1 M HCl solution. Some yellow flocculates were formed, which were collected and dried. The crude product was further purified by sublimation at 90-100° C. A white powdery product 1,4-diethynylbenzene was obtained in 39% yield.

reactant | 1,4-dibromobenzene | 10 mmol, 2.36 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | trimethylsilylacetylene | 25 mmol, 3.6 mL, 2.45 g | C[Si](C)(C)C#C | C5H10Si
reactant | 1,4-bis(trimethylsilylacetyl)benzene | 8.3 mmol, 2.25 g | C[Si](C)(C)CC(=O)C1=CC=C(C=C1)C(C[Si](C)(C)C)=O | C16H26O2Si2
reactant | KOH | 102 mmol, 5.73 g | [OH-].[K+]
reactant | HCl | 1 M, 880 mL | Cl | ClH
solvent | ethanol | 143 mL | C(C)O | C2H6O
solvent | Et3N | 38 mL | CCN(CC)CC | C6H15N
product | 1,4-diethynylbenzene | 39% yield | C(#C)C1=CC=C(C=C1)C#C | C10H6
